US04051152
3-(4-p-fluorophenyl-1-methylbutyl)-1-hydroxy-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran, prepared as disclosed in Winn et al. U.S. Pat. No. 3,901,926, is converted to the 1-acetoxy compound according to the procedure of Example 1, the 1-acetoxy compound is converted to 1-acetoxy-3-(4-p-fluorophenyl-1-methylbutyl)-7-oxo-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran according to Example 2 and this compound upon hydrolysis according to Example 3 gives 3-(4-p-fluorophenyl-1-methylbutyl)-1-hydroxy-7-oxo-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran.

reactant | 3-(4-p-fluorophenyl-1-methylbutyl)-1-hydroxy-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran | FC1=CC=C(C=C1)CCCC(C)C=1C=C(C2=C(OC(C3=C2CC(CC3)C)(C)C)C1)O | C27H33FO2
reactant | 1-acetoxy-3-(4-p-fluorophenyl-1-methylbutyl)-7-oxo-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran | C(C)(=O)OC1=CC(=CC=2OC(C3=C(C21)CC(CC3=O)C)(C)C)C(CCCC3=CC=C(C=C3)F)C | C29H33FO4
product | 3-(4-p-fluorophenyl-1-methylbutyl)-1-hydroxy-7-oxo-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran | FC1=CC=C(C=C1)CCCC(C)C=1C=C(C2=C(OC(C3=C2CC(CC3=O)C)(C)C)C1)O | C27H31FO3
